### PR TITLE
feat: add `BitVec.(msb, getMsbD, getLsbD)_(neg, abs)`

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2100,6 +2100,32 @@ theorem toNat_abs {x : BitVec w} : x.abs.toNat = if x.msb then 2^w - x.toNat els
     rw [Nat.mod_eq_of_lt (by omega)]
   · simp [h]
 
+theorem getLsbD_abs {i : Nat} {x : BitVec w} :
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:2103]: I wonder whether we want to have the `getLsbD`/`msb` etc. inside or outside of the if here. If (haha) it was inside we could run `simp` after applying this theorem to reason about both branches of the if quite easily. If one of them happens to simplify to true or false more theorems on if would fire as well that make it disappear entirely.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2100,6 +2100,32 @@ theorem toNat_abs {x : BitVec w} : x.abs.toNat = if x.msb then 2^w - x.toNat els
...
+   getLsbD x.abs i = if x.msb then getLsbD (-x) i else getLsbD x i := by
+  by_cases h : x.msb <;> simp [BitVec.abs, h]
+
+theorem getMsbD_abs {i : Nat} {x : BitVec w} :
+    getMsbD (x.abs) i = if x.msb then getMsbD (-x) i else getMsbD x i := by
+  by_cases h : x.msb <;> simp [BitVec.abs, h]
+
+theorem msb_abs {w : Nat} {x : BitVec w} :
+    (x.abs).msb = if x.msb then (-x).msb else x.msb := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2112]:
```suggestion
    (x.abs).msb = false := by
  simp only [BitVec.abs, neg_eq]
  have : (-x).msb = !x.msb := sorry
  cases h : x.msb
  <;> simp [h, this]
```

The absolute value is always positive, and thus the sign-bit (msb) is always false!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2100,6 +2100,32 @@ theorem toNat_abs {x : BitVec w} : x.abs.toNat = if x.msb then 2^w - x.toNat els
...
+  by_cases h : x.msb <;> simp [BitVec.abs, h]
+
+/-! ### neg -/
+
+theorem msb_neg {x : BitVec w} :
+    (-x).msb = (~~~x + 1#w).msb := by
+  rw [neg_eq_not_add]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2119]:
```suggestion
theorem msb_neg {x : BitVec w} :
    (-x).msb = !x.msb := by
```

Here, too: the sign bit of `-x` is always the inverse of the signbit of `x`.

You might want to pull this result up higher in the file, as it's useful to prove `msb_abs`

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:2119]: There is one exception:

```lean4
@[simp]
theorem neg_intMin {w : Nat} : -intMin w = intMin w := by
  by_cases h : 0 < w
  · simp [bv_toNat, h]
  · simp only [Nat.not_lt, Nat.le_zero_eq] at h
    simp [bv_toNat, h]
```

https://github.com/leanprover/lean4/blob/master/src/Init/Data/BitVec/Lemmas.lean#L2841

We may want to first pull-up `intMin` and `intMax` before add/sub/neg, and then use those.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2112]: oh right! thanks!

Comment (alexkeizer) [reply src/Init/Data/BitVec/Lemmas.lean]: Sorry, turns out I was wrong: the absolute value of `intMin is `intMin` itself, and thus still negative.
I edited the suggested statement to the actually correct version: the msb of the absolute value is always false, *unless* `x` is `intMin`.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: thank you! I am working on the proof for this `msb_neg`, will draft the pr for the time being

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2837,13 +2826,21 @@ theorem toInt_intMin {w : Nat} :
     rw [Nat.mul_comm]
     simp [w_pos]
 
+@[simp]
+theorem not_intMin {w : Nat} :
+    ¬ intMin w = 0#w := by sorry
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2831]: Is this true for `w = 0`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2952,6 +2953,77 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+   getLsbD x.abs i = if x.msb then getLsbD (-x) i else getLsbD x i := by
+  by_cases h : x.msb <;> simp [BitVec.abs, h]
+
+theorem getMsbD_abs {i : Nat} {x : BitVec w} :
+    getMsbD (x.abs) i = if x.msb then getMsbD (-x) i else getMsbD x i := by
+  by_cases h : x.msb <;> simp [BitVec.abs, h]
+
+@[simp]
+theorem msb_abs {w : Nat} {x : BitVec w} :
+    x.abs.msb = decide (x = BitVec.intMin _)  := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3017]: This may not be true for `w = 0`?

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:3017]: I am not sure. If I understood correctly, `intMin 0 = 0` so it should be.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3017]: /-
false
-/
#eval (0#0).abs.msb = decide (0#0 = BitVec.intMin 0)

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2831]: I'm still a bit confused about what happens if `w=0`. By the def `intMin w = twoPow w (w - 1) = BitVec w := 1#w <<< (w - 1)`, so I would expect this to hold. But I am not sure yet.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:3017]: right! thank you

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2831]: I guess I can check with `#eval` as well

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2831]: actually this theorem makes no sense at all

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:2831]: Why? It could could say that intMin is not 0#w for any w > 0, no? Not sure if this is useful, though.

Comment (alexkeizer) [reply src/Init/Data/BitVec/Lemmas.lean:2831]: It might be useful to keep in mind that `BitVec 0` has exactly *one* inhabitant. Any method of constructing a `BitVec 0` will thus give a result equal to `0#0`

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -2952,6 +2953,174 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+theorem getLsbD_add {i : Nat} (i_lt : i < w) (x y : BitVec w) :
+    getLsbD (x + y) i =
+      (getLsbD x i ^^ (getLsbD y i ^^ carry i x y false)) := by
+  sorry
+
+-- Taken from BitVec/Bitblast.lean
+theorem carry_incr (i : Nat) (x : BitVec w) (h : 0 < w) :
+    carry (i+1) x (1#w) false = decide (∀ j ≤ i, x.getLsbD j = true) := by
+  sorry
+
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2982]: These are existing results in the Bitblast file, which I needed to prove msb_neg

**Review by alexkeizer — COMMENTED** [review]
@luisacicolini I pushed a proof of msb_neg. I did have to use results from the `Bitblast.lean` file. For now, I copied the statements to Lemmas and sorried them out, but we'll have to move `msb_neg` et al to Bitblast.lean eventually (or another file that imports Bitblast.lean but has all the non-bitblasting lemmas that use bitblast results, which is an idea I'm starting to like more, the more we encounter this type of situation)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -2952,6 +2953,174 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+      <;> try omega
+      congr; omega
+    · rintro ⟨j, hj₁, hj₂, -, h⟩
+      refine ⟨w - 1 - j, ?_, h⟩
+      omega
+
+theorem msb_neg {w : Nat} {x : BitVec w} :
+    (-x).msb = ((!decide (x = 0#w) && !decide (x = intMin w)) ^^ x.msb) := by
+  have getMsbD_intMin {w i} : (intMin w).getMsbD i = decide (0 < w ∧ i = 0) :=
+      sorry
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:3051]: And here's another sorry, but this one shouldn't be too hard. I think we had another PR floating around that proved intMin results, so I didn't even attempt this lemma

**Comment by luisacicolini** [comment]
thank you @alexkeizer! For now I was trying to remain in `Lemmas`, I pushed the progress I've made today. I'll take a look at your code asap and try to push this through :)

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I ended up not using it at all, happy to add it if it can be useful though. 

Also, @alexkeizer I just spent some hours trying to understand this thing that `1#0` is equal to `0#0`. The concept is very clear and sensible, however I am struggling to deal with these objects in the proofs. Is there a general desirable approach to handle these cases? While trying to prove `msb_neg` I ended up having in/equalities dealing with them quite a few times and I struggled to get something reasonable out of it.

**Comment by luisacicolini** [comment]
Proofs are now donewith, the one remaining task now is to decide what to do with the theorems we borrowed from `BitBlast`.

**Comment by luisacicolini** [comment]
I guess the PR is now ready for review. I eventually moved the theorems depending on `BitBlast` to that file.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -2890,6 +2895,17 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
   · simp [h]
   · rw [Nat.sub_add_cancel (Nat.two_pow_pos (w - 1)), Nat.two_pow_pred_mod_two_pow (by omega)]
 
+-- imp: two_pow_pred_lt_two_pow
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2899]: What is this two_pow_pred_lt_two_pow here?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -2890,6 +2895,17 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+@[simp]
+theorem not_intMin {w : Nat} : intMax w = ~~~intMin w := by
+  ext i
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2902]: Do we really want to rewrite ~~~intMin to IntMax and not the other way around?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -2890,6 +2895,17 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+  rw [getLsbD_intMax]
+  rw [getLsbD_not]
+  rw [getLsbD_intMin]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2905]:
```suggestion
  rw [getLsbD_intMax, getLsbD_not, getLsbD_intMin]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -2952,6 +2968,36 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
     BitVec.toNat_sub_of_le (by rw [BitVec.le_def]; omega)]
   omega
 
+/-! ### neg-/
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2972]:
```suggestion
/-! ### neg -/

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -2952,6 +2968,36 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+theorem msb_eq_toInt {x : BitVec w}:
+    x.msb = decide ((x.toInt) < 0) := by
+  by_cases h : x.msb <;>
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2975]:
```suggestion
    x.msb = decide (x.toInt < 0) := by
  by_cases h : x.msb <;>
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -2952,6 +2968,36 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+  · simp [h, toInt_eq_msb_cond]
+    omega
+
+theorem msb_eq_toNat {x : BitVec w}:
+    x.msb = decide ((x.toNat) ≥ 2 ^ (w - 1)) := by
+  simp only [msb_eq_decide, ge_iff_le]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2981]:
```suggestion
    x.msb = decide (x.toNat ≥ 2 ^ (w - 1)) := by
  simp only [msb_eq_decide, ge_iff_le]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 14]
```diff
@@ -352,6 +377,121 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+        apply hzero
+        apply eq_of_getMsbD_eq
+        rintro ⟨i, hi⟩
+        simp only [getMsbD_zero]
+        cases i
+        case zero => exact hmsb
+        case succ => exact getMsbD_x _ hi (by omega)
+
+/-! ### Abs -/
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:477]:
```suggestion
/-! ### abs -/

```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2902]: the theorem is also never used, I can remove it from the current PR if we want to think about it more carefullt

File: src/Init/Data/BitVec/Bitblast.lean [hunk 15]
```diff
@@ -352,6 +377,121 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
     simp [← sub_toAdd, BitVec.sub_add_cancel]
   · simp [bit_not_testBit x _]
 
+/--
+Remember that a negating a bitvector is equal to incrementing the complement
+by one, i.e., `-x = ~~~x + 1`. (see `neg_eq_not_add`)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:382]:
```suggestion
Remember that negating a bitvector is equal to incrementing the complement
by one, i.e., `-x = ~~~x + 1`. (see `neg_eq_not_add`)
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:2900]: Yes, maybe that's a good idea. This PR is already complex, so let's try to minimize unrelated changes.

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -2974,7 +2977,6 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
   · simp [h]
   · rw [Nat.sub_add_cancel (Nat.two_pow_pos (w - 1)), Nat.two_pow_pred_mod_two_pow (by omega)]
 
-
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2977]: This is an unrelated change.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 17]
```diff
@@ -352,6 +377,121 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+- The least significant bit of `-x` is the same as the least significant bit of `x`, and
+- The `i+1`-th least significant bit of `-x` is the complement of the `i+1`-th bit of `x`, unless
+  all of the preceding bits are `false`, in which case the bit is equal to the `i+1`-th bit of `x`
+-/
+theorem getLsbD_neg {i : Nat} {x : BitVec w} :
+    getLsbD (-x) i =
+      (getLsbD x i ^^ decide (i < w ∧ ∃ j < i, getLsbD x j = true)) := by
+  rw [neg_eq_not_add]
+  by_cases hi : i < w
+  case neg =>
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:394]: I have a slight preference for focusing dots rather than the `case` tactic, but it's fine as is.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 18]
```diff
@@ -352,6 +377,121 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+    have h_ge : w ≤ i := by omega
+    simp [getLsbD_ge _ _ h_ge, h_ge, hi]
+  case pos =>
+    rw [getLsbD_add hi]
+    have : 0 < w := by omega
+    simp only [getLsbD_not, hi, decide_True, Bool.true_and, getLsbD_one, this, not_bne,
+      _root_.true_and, not_eq_eq_eq_not]
+    cases i
+    case zero =>
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:403]: Slight preference for the `cases i with | zero => ...` syntax.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 19]
```diff
@@ -352,6 +377,121 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+    · rintro ⟨j, hj, h⟩
+      refine ⟨w - 1 - j, ?_, ?_, ?_, _root_.cast ?_ h⟩
+      <;> try omega
+      congr; omega
+    · rintro ⟨j, hj₁, hj₂, -, h⟩
+      refine ⟨w - 1 - j, ?_, h⟩
+      omega
+
+theorem msb_neg {w : Nat} {x : BitVec w} :
+    (-x).msb = ((!decide (x = 0#w) && !decide (x = intMin w)) ^^ x.msb) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:436]: Would these `!decide (x = y)` be better as `x != y`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 20]
```diff
@@ -352,6 +377,121 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+        apply eq_of_getMsbD_eq
+        rintro ⟨i, hi⟩
+        simp only [getMsbD_zero]
+        cases i
+        case zero => exact hmsb
+        case succ => exact getMsbD_x _ hi (by omega)
+
+/-! ### abs -/
+
+theorem msb_abs {w: Nat} {x : BitVec w} :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:478]:
```suggestion
theorem msb_abs {w : Nat} {x : BitVec w} :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 21]
```diff
@@ -352,6 +377,121 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+  by_cases hi : i < w
+  case neg =>
+    simp [hi]; omega
+  case pos =>
+    have h₁ : w - 1 - i < w := by omega
+    simp only [hi, decide_True, h₁, Bool.true_and, Bool.bne_left_inj, decide_eq_decide]
+    constructor
+    · rintro ⟨j, hj, h⟩
+      refine ⟨w - 1 - j, ?_, ?_, ?_, _root_.cast ?_ h⟩
+      <;> try omega
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:429]: My preference would be to actually replace the relevant `?_` with multiple copies of `by omega`.
* Easier to read
* Better to avoid the failing `omega` call in the remaining case

File: src/Init/Data/BitVec/Bitblast.lean [hunk 22]
```diff
@@ -352,6 +377,121 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+      congr; omega
+    · rintro ⟨j, hj₁, hj₂, -, h⟩
+      refine ⟨w - 1 - j, ?_, h⟩
+      omega
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:433]:
```suggestion
      exact ⟨w - 1 - j, by omega, h⟩
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 23]
```diff
@@ -352,6 +377,121 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+      have carry_zero : carry 0 ?x ?y false = false := by
+          simp [carry]; omega
+      simp [hi, carry_zero]
+    case succ i =>
+      rw [carry_incr _ _ (by omega), ← Bool.xor_not, ← decide_not]
+      simp only [add_one_ne_zero, decide_False, getLsbD_not, and_eq_true, decide_eq_true_eq,
+        not_eq_eq_eq_not, Bool.not_true, false_bne, not_exists, _root_.not_and, not_eq_true,
+        bne_left_inj, decide_eq_decide]
+      constructor
+      · rintro h j hj; apply And.right <| h j (by omega)
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:413]: Can this be `exact` rather than `apply`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 24]
```diff
@@ -174,6 +174,31 @@ theorem carry_succ (i : Nat) (x y : BitVec w) (c : Bool) :
     exact mod_two_pow_add_mod_two_pow_add_bool_lt_two_pow_succ ..
   cases x.toNat.testBit i <;> cases y.toNat.testBit i <;> (simp; omega)
 
+
+theorem carry_incr (i : Nat) (x : BitVec w) (h : 0 < w) :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:178]: Probably should be called `carry_add_one` or `carry_succ`; we don't use `incr` in names for this.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 25]
```diff
@@ -174,6 +174,31 @@ theorem carry_succ (i : Nat) (x y : BitVec w) (c : Bool) :
...
+    carry (i+1) x (1#w) false = decide (∀ j ≤ i, x.getLsbD j = true) := by
+  induction i
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:180]: Similarly, slight preference for `with` syntax for `induction`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 26]
```diff
@@ -174,6 +174,31 @@ theorem carry_succ (i : Nat) (x y : BitVec w) (c : Bool) :
...
+    rw [carry_succ, ih]
+    simp only [getLsbD_one, add_one_ne_zero, decide_False, Bool.and_false, atLeastTwo_false_mid]
+    cases hx : x.getLsbD (i+1)
+    case false =>
+      have : ∃ j ≤ i + 1, x.getLsbD j = false :=
+        ⟨i+1, by omega, hx⟩
+      simpa
+    case true =>
+      suffices
+          (∀ (j : Nat), j ≤ i → x.getLsbD j = true )
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:192]:
```suggestion
          (∀ (j : Nat), j ≤ i → x.getLsbD j = true)
```

**Comment by luisacicolini** [comment]
Thank you very much @kim-em for reviewing this! All comments should be addressed now.

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Bitblast.lean [hunk 27]
```diff
@@ -352,6 +376,118 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+by one, i.e., `-x = ~~~x + 1`. See also `neg_eq_not_add`.
+
+This computation has two crucial properties:
+- The least significant bit of `-x` is the same as the least significant bit of `x`, and
+- The `i+1`-th least significant bit of `-x` is the complement of the `i+1`-th bit of `x`, unless
+  all of the preceding bits are `false`, in which case the bit is equal to the `i+1`-th bit of `x`
+-/
+theorem getLsbD_neg {i : Nat} {x : BitVec w} :
+    getLsbD (-x) i =
+      (getLsbD x i ^^ decide (i < w ∧ ∃ j < i, getLsbD x j = true)) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:390]: Would
```
(-x).getLsbD i = (x.getLsbD i ^^ decide (i < w) && decide (∃ j, j < i ∧ x.getLsbD j = true))
```
be okay here? This is what `simp` would transform the goal into.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 28]
```diff
@@ -352,6 +376,118 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+    simp only [hi, decide_True, h₁, Bool.true_and, Bool.bne_left_inj, decide_eq_decide]
+    constructor
+    · rintro ⟨j, hj, h⟩
+      refine ⟨w - 1 - j, by omega, by omega, by omega, _root_.cast ?_ h⟩
+      congr; omega
+    · rintro ⟨j, hj₁, hj₂, -, h⟩
+      exact ⟨w - 1 - j, by omega, h⟩
+
+theorem msb_neg {w : Nat} {x : BitVec w} :
+    (-x).msb = ((decide (x ≠ 0#w) && decide (x ≠ intMin w)) ^^ x.msb) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    (-x).msb = (((x != 0#w) && (x != intMin w)) ^^ x.msb) := by
```
Does this work? Seems slightly easier to just keep `decide` out of the statements when bool valued relations are available.

(Generally, I'm unhappy about how often we need `decide` in the BitVec API, but I don't have good solutions.)

Comment (alexkeizer) [reply src/Init/Data/BitVec/Bitblast.lean]: It does, with a slightly amended proof I literally *just* pushed.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 27 above)
Comment (alexkeizer) [reply src/Init/Data/BitVec/Bitblast.lean]: Jup. Personally, I don't really like having so many separate `decide`s floating around, but it is the simp normal form, so we should write it like you suggest. I just pushed the change

File: src/Init/Data/BitVec/Bitblast.lean [hunk 29]
```diff
@@ -352,6 +376,117 @@ theorem bit_neg_eq_neg (x : BitVec w) : -x = (adc (((iunfoldr (fun (i : Fin w) c
...
+        case zero => exact hmsb
+        case succ => exact getMsbD_x _ hi (by omega)
+      case false =>
+        apply hzero
+        apply eq_of_getMsbD_eq
+        rintro ⟨i, hi⟩
+        simp only [getMsbD_zero]
+        cases i
+        case zero => exact hmsb
+        case succ => exact getMsbD_x _ hi (by omega)
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:469]:
```suggestion
theorem msb_neg {w : Nat} {x : BitVec w} :
    (-x).msb = ((x != 0#w && x != intMin w) ^^ x.msb) := by
  simp only [BitVec.msb, getMsbD_neg]
  by_cases hmin : x = intMin _
  · have : (∃ j, j < w ∧ 0 < j ∧ 0 < w ∧ j = 0) ↔ False := by
      simp; omega
    simp [hmin, getMsbD_intMin, this]
  · by_cases hzero : x = 0#w
    · simp [hzero]
    · have w_pos : 0 < w := by
        cases w
        · rw [@of_length_zero x] at hzero
          contradiction
        · omega
      suffices ∃ j, j < w ∧ 0 < j ∧ x.getMsbD j = true
        by simp [show x != 0#w by simpa, show x != intMin w by simpa, this]
      false_or_by_contra
      rename_i getMsbD_x
      simp only [not_exists, _root_.not_and, not_eq_true] at getMsbD_x
      /- `getMsbD` says that all bits except the msb are `false` -/
      cases hmsb : x.msb with
      | true =>
        apply hmin
        apply eq_of_getMsbD_eq
        rintro ⟨i, hi⟩
        simp only [getMsbD_intMin, w_pos, decide_True, Bool.true_and]
        cases i with
        | zero => exact hmsb
        | succ => exact getMsbD_x _ hi (by omega)
      | false =>
        apply hzero
        apply eq_of_getMsbD_eq
        rintro ⟨i, hi⟩
        simp only [getMsbD_zero]
        cases i with
        | zero => exact hmsb
        | succ => exact getMsbD_x _ hi (by omega)
```

@kim-em Is the preference for `cases _ with | zero => ...` over `case zero => ...` a universal one, or just in those specific cases you pointed out before? I did a pass and noticed a few more uses of the latter

Comment (kim-em) [reply src/Init/Data/BitVec/Bitblast.lean:469]: Let's not worry about this. Otherwise everything looks good now.
